US07763617B2
6-chloro-2-(pyridine-3-ylmethyl)-2H-pyridazine-3-one
6-chloro-2H-pyridazine-3-one (1.00 g) was dissolved in DMF (76 mL). To this solution, 60% sodium hydride (370 mg) was added at room temperature in an argon atmosphere and the mixture was vigorously stirred at 50° C. Meanwhile, 60% sodium hydride (370 mg) was added to a solution of 3-(chloromethyl)pyridine hydrochloride (1.51 g) in DMF at −40° C. in an argon atmosphere and the solution was allowed to warm to room temperature. Using a cannula, this solution was poured into the pyridazinone solution and the mixture was stirred first at 50° C. for 90 min and then at room temperature for 18 hours. Subsequently, a saturated ammonium chloride solution was added and the solvent was concentrated. Water was then added to the residue and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. Evaporation of the solvent and subsequent purification by silica gel column chromatography (ethyl acetate: petroleum ether=7:3, followed by methanol:ethyl acetate=5:95) afforded the title compound as a colorless powder (1.30 g).

reactant | 6-chloro-2H-pyridazine-3-one | 1.00 g | ClC=1C=CC(NN1)=O | C4H3ClN2O
reactant | sodium hydride | 370 mg | [H-].[Na+]
reactant | sodium hydride | 370 mg | [H-].[Na+]
reactant | 3-(chloromethyl)pyridine hydrochloride | 1.51 g | Cl.ClCC=1C=NC=CC1
reactant | pyridazinone | N=1NC(C=CC1)=O | C4H4N2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 76 mL | CN(C)C=O | C3H7NO
product | 6-chloro-2-(pyridine-3-ylmethyl)-2H-pyridazine-3-one | 1.30 g | ClC=1C=CC(N(N1)CC=1C=NC=CC1)=O | C10H8ClN3O
